US07683185B2
(3-(4Dimethylamino-phenylsulfanyl)-phenyl)-methanol (49a).
To a suspension of lithium aluminium hydride (61 mg, 1.1 mmol) in dry tetrahydrofuran (2 mL) at 0° C., under an argon atmosphere, was added a solution of 3-(4-dimethylamino-phenylsulfanyl)-benzoic acid methyl ester (287 mg, 1.0 mmol) in dry tetrahydrofuran (4 mL) in a dropwise manner. The mixture was stirred at room temperature for 1 hour and then cooled to 0° C. Acetone (2 mL) was added dropwise followed by brine (8 mL) to give a slurry that was filtered through a pad of celite, which was washed with ethyl acetate (3×10 mL). The organic layer was washed with brine (25 mL), dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give the title compound (255 mg, 98%) as a colourless oil.

reactant | lithium aluminium hydride | 1.1 mmol, 61 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(4-dimethylamino-phenylsulfanyl)-benzoic acid methyl ester | 1.0 mmol, 287 mg | COC(C1=CC(=CC=C1)SC1=CC=C(C=C1)N(C)C)=O | C16H17NO2S
reactant | Acetone | 2 mL | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | brine | 8 mL | [Cl-].[Na+].O
product | (3-(4Dimethylamino-phenylsulfanyl)-phenyl)-methanol | 255 mg, 98% | CN(C1=CC=C(C=C1)SC=1C=C(C=CC1)CO)C | C15H17NOS
